US07199105B2
To a mixture of 4-(5-fluoro-pentyl)-pyridine-2-carboxylic acid methyl ester (254 mg, 1.13 mmol) in MeOH (5 mL) and water (5 mL) were added conc. HCl (0.28 mL, 3.39 mmol, 3 equiv) and platinum oxide (130 mg). The mixture was purged and charged with hydrogen (1 atm) and stirred overnight. The platinum oxide was removed by filtration and the filtrate was evaporated to give 4-(5-fluoro-pentyl)-piperidine-2-carboxylic acid 2-methyl ester.

reactant | 4-(5-fluoro-pentyl)-pyridine-2-carboxylic acid methyl ester | 1.13 mmol, 254 mg | COC(=O)C1=NC=CC(=C1)CCCCCF | C12H16FNO2
reactant | HCl | 3.39 mmol, 0.28 mL, 3 equiv | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
catalyst | platinum oxide | 130 mg | [Pt]=O
product | 4-(5-fluoro-pentyl)-piperidine-2-carboxylic acid 2-methyl ester | COC(=O)C1NCCC(C1)CCCCCF | C12H22FNO2
